US04092412
Methyl Phosphonoacetate
Phosphonoacetic acid, 5 g., was dissolved in 25 ml. methyl alcohol. Dry hydrogen chloride was bubbled through the solution for 30 minutes at O° C. The solution was refluxed for 4 hours. Evaporation of the solvent left an oil which was dried in vacuo over P2O5 and NaOH.

reactant | Phosphonoacetic acid | P(=O)(O)(O)CC(=O)O | C2H5O5P
reactant | methyl alcohol | CO | CH4O
product | Methyl Phosphonoacetate | P(=O)(O)(O)CC(=O)OC | C3H7O5P
